US06194406B1
1-Benzyl-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(phenylmethyl)-2-oxopyrrolidine
Prepare by the method of Example 1.6 using 1-benzyl-3-(phenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane to give the title compound.

reactant | 1-benzyl-3-(phenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine | C(C1=CC=CC=C1)N1C(C(CC1)(CCOS(=O)(=O)C)CC1=CC=CC=C1)=O | C21H25NO4S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
product | 1-Benzyl-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(phenylmethyl)-2-oxopyrrolidine | C(C1=CC=CC=C1)N1C(C(CC1)(CC1=CC=CC=C1)CCN1CCN(CCC1)C1=NC2=C(N1CCOCC)C=CC=C2)=O | C36H45N5O2
